US07915410B2
To a vial charged with 2-chloro-6-fluorobenzaldehyde (158 mg, 1.0 mmol), 2,4,6-trivinylcyclotriboroxane pyridine complex (380 mg, 1.0 mmol), tetrakis(triphenylphosphine)palladium(0) (52 mg, 5 mol %) and potassium carbonate (280 mg, 2.0 mmol) was added a 3:1 mixture of 1,2-dimethoxyethane and water-(2 mL). Upon completion of addition, the reaction was heated at 180° C. for 1 h under microwave conditions and then diluted with EtOAc (5 mL). The resulting mixture was washed with satd NaHCO3 (5 mL), dried over Na2SO4 and filtered. The volatiles were removed under reduced pressure to provide crude 2-fluoro-6-vinylbenzaldehyde. The crude 2-fluoro-6-vinylbenzaldehyde was dissolved in methanol (5 mL) and 10% palladium on carbon was added. The resulting reaction mixture was stirred under an atmosphere of H2 for 3 h and then filtered through celite. Once again, the volatiles were removed under reduced pressure to provide Intermediate 27 (approximately 300 mg) as a pale yellow oil, which was used without further purification.

reactant | 2-chloro-6-fluorobenzaldehyde | 1.0 mmol, 158 mg | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | 2,4,6-trivinylcyclotriboroxane pyridine complex | 1.0 mmol, 380 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | potassium carbonate | 2.0 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water- | 2 mL | O | H2O
product | 2-fluoro-6-vinylbenzaldehyde | FC1=C(C=O)C(=CC=C1)C=C | C9H7FO
